datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C>>CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1C[O:62][C:11]([H:10])([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[O:12]1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>C1C[O:62][C:11]([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)=[O+:12]1.Cl[B-:33](Cl)(Cl)[O:21][CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
"C1C[N:10]=[C:11]2CCC[N:12]2C1.C[C:22]([CH:21]=[CH2:20])=[O:23]>>C[C:22](=[CH:21][CH2:20][N:10]1CCC[N+:12]2=[C:11]1CCC2)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:12][CH:11]=[CH2:10].C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>CC[O+:12]=[CH:11][CH2:10][CH:20](C)[N:21]1C2=CC=CC=C2C2=C1C=CC=C2 10,11=10,20;12=11,12;20,21=21"
"CC1=CC(C)=C([N:63]2[C:62]([C:81]([C-:10](C)C3=CC=CC=C3)=[O:82])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC1=CC(C)=C([N:63]2[C:62]([C:81]([C:10](C)(C3=CC=CC=C3)[CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)=[O:82])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1 10=20;20,21=21"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.C[C:61]1=[N:10][CH:64]=[C:63](C)[NH:62]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N+:10]2=[C:61](C)[NH:62][C:63](C)=[CH:64]2)[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:72][C:61]([C-:10](C)[C:81](C)=[O:82])=[O:62]>>CC[O:34][C:32]([C:21]([CH:20]([C:10](C)([C:61](=[O:62])[O:72]CC)[C:81](C)=[O:82])[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CN(C)C1=CC=C([P:10](C2=CC=C(N(C)C)C=C2)C2=CC=C(N(C)C)C=C2)C=C1.FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].CN(C)C1=CC=C([P+:10](C2=CC=C(N(C)C)C=C2)(C2=CC=C(N(C)C)C=C2)[S:20]C(F)F)C=C1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[O:10]=[C:11]1[C:12](=[N+:13]([O-:14])[O-:64])[CH:73]=[CH:74][CH:75]=[CH:76]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([O:10][C:11]2=[C:12]([N+:13](=[O:14])[O-:64])[CH:73]=[CH:74][CH:75]=[CH:76]2)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:22]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
[NH2:10][NH2:61].[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C+:20]([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65>>[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C:20]([NH2+:10][NH2:61])([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65 10=20
"CO[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1.F[C:20]1=[C:21](F)[C:22](=[O:23])[C:30](F)=[C:31](F)[C:32]1=[O:33]>>CO[C:64]1=[CH:63][CH:62]=[C:61]([O:10][C:20]2(F)[C:21](F)=[C:22]([O-:23])[C:30](F)=[C:31](F)[C:32]2=[O:33])[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10]2CC2)[O:12]1.CCC[C:20](C)=[O:21]>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CCC[C:20](C)([CH:10]1CC1)[O-:21] 10,11=10,20;12=11,12;20,21=21"
"Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.[H:10][Si:11]([CH3:62])([CH3:72])[C:82]1=[CH:83][CH:84]=[C:85]([Cl:86])[CH:93]=[CH:94]1>>Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.[Si+:11]([CH3:62])([CH3:72])[C:82]1=[CH:83][CH:84]=[C:85]([Cl:86])[CH:93]=[CH:94]1 10,11=10,20"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].[OH2:10]>>C1=CC2=C(C=C1)[C:32](=[O:33])[C:21]([CH:20]([OH2+:10])[C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)=[C:22]2[O-:23] 10=20;20,21=21,22;22,23=23"
"CC(C)[NH2:10].CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC(C)[NH2+:10][CH:20]([CH:21]=[C:22](C1=[N+](C2=C(F)C(F)=C(F)C(F)=C2F)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
